US06610730B2
Method 7 General Experimental: Pyrrole-2-carboxylic acid (27.0 mmol, 3.00 g) in CH2Cl2 (100 ml) was treated with oxalyl chloride (54.0 mmol, 4.70 ml) and DMF (1 drop), then heated to reflux for 1 h, then concentrated under reduced pressure. The residue was diluted with CH2Cl2 (100 ml) and pyridine (6.50 ml), and treated with O,N-dimethyl-hydroxylamine hydrochloride (27.0 mmol, 2.65 g), then held at room temperature overnight. The resulting solution was diluted with ethyl acetate (250 ml), washed with 10% aqueous citric acid (2×30 ml), saturated aqueous sodium bicarbonate (2×30 ml), then brine (2×30 ml). The organics were concentrated under reduced pressure. Purification of the residue by silica gel chromatography provided 3.42 g (82%) of 1H-pyrrole-2-carboxylic acid methoxy-methyl amide. 1H NMR (CDCl3) δ6.90-6.80 (1H, m), 6.79-6.60 (1H, m), 6.18 (1H, dd, J=3.7, 1.3), 3.81 (3H, s), 3.01 (3H, s).

reactant | Pyrrole-2-carboxylic acid | 27.0 mmol, 3.00 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | oxalyl chloride | 54.0 mmol, 4.70 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O,N-dimethyl-hydroxylamine hydrochloride | 27.0 mmol, 2.65 g | Cl.CONC
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 1H-pyrrole-2-carboxylic acid methoxy-methyl amide | 3.42 g, 82% | CON(C(=O)C=1NC=CC1)C | C7H10N2O2
